US04167570
6,11-Dihydro-2,6,8,9-tetramethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one
A mixture consisting of 38 gm (0.15 mol) of 6,11-dihydro-2,8,9-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one, 300 ml of dimethyl formamide and 8.4 gm (0.18 mol) of 50% sodium hydride in mineral oil was stirred at room temperature in a nitrogen atmosphere for 30 minutes. Then, a solution of 31.4 gm (0.22 mol) of methyl iodide in 50 ml of dimethyl formamide was added dropwise, and the mixture was heated on an oil bath at 100° C. for 2 hours while stirring. The mixture was then evaporated in vacuo, ice was added to the oily residue, and the mixture was stirred until the residue crystallized. The crystals were collected by suction filtration and recrystallized from n-propanol, yielding 65% of theory of the compound named in the heading, which had a melting point of 217°-219° C.

reactant | 6,11-dihydro-2,8,9-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 0.15 mol, 38 gm | CC=1C=CC2=C(NC3=C(NC2=O)C=C(C(=C3)C)C)N1 | C15H15N3O
reactant | sodium hydride | 0.18 mol, 8.4 gm | [H-].[Na+]
reactant | methyl iodide | 0.22 mol, 31.4 gm | CI | CH3I
solvent | dimethyl formamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 300 ml | CN(C=O)C | C3H7NO
product | 6,11-Dihydro-2,6,8,9-tetramethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | CC=1C=CC2=C(NC3=C(N(C2=O)C)C=C(C(=C3)C)C)N1 | C16H17N3O
